US07138425B2
c) 2-(3-Nitro-6-propylaminophenyl)-6-fluorobenzoxazole
Prepared by the method of Example 54a), from 2-(3-nitro-6-fluorophenyl)-6-fluorobenzoxazole (552 mg, 2.0 mmol) and propylamine (492 μL, 6.0 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-fluorophenyl)-6-fluorobenzoxazole | 2.0 mmol, 552 mg | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=CC(=C2)F | C13H6F2N2O3
reactant | propylamine | 6.0 mmol, 492 μL | C(CC)N | C3H9N
product | 2-(3-Nitro-6-propylaminophenyl)-6-fluorobenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=CC(=C2)F | C16H14FN3O3
